US08372823B2
Ethyl (E)-3-(biphenyl-4-yl)acrylate (S45).
The title compound was prepared from 4-biphenylcarboxaldehyde and triethylphosphonoacetate using the procedure described for ethyl (E)-3-(4-benzylphenyl)acrylate (S38). Column chromatography (SiO2, 4×12 cm, 5% EtOAc-hexanes) afforded S45 (2.90 g, 11.5 mmol, 83%) as a yellow oil: 1H NMR (CDCl3, 400 MHz) 166.9, 144.0, 142.8, 140.0, 133.3, 128.8, 128.4, 127.7, 127.4, 126.9, 118.0, 60.4, 14.2.

reactant | 4-biphenylcarboxaldehyde | C1(=CC=C(C=C1)C=O)C1=CC=CC=C1 | C13H10O
reactant | ethyl (E)-3-(4-benzylphenyl)acrylate | C(C1=CC=CC=C1)C1=CC=C(C=C1)/C=C/C(=O)OCC | C18H18O2
product | Ethyl (E)-3-(biphenyl-4-yl)acrylate | C1(=CC=C(C=C1)/C=C/C(=O)OCC)C1=CC=CC=C1 | C17H16O2
